US06509349B1
4-Chloro-3-methoxy-2-bromomethyl-pyridine
4-Chloro-3-methoxy-2-methyl-pyridine (6.12 g) is dissolved in carbon tetrachloride (80 ml) then N-bromo-succinimide (7.12 g) and benzoyl peroxide (1 g) are added. The reaction mixture is refluxed under UV irradiation for 1.5 hour. The solid is filtered after cooling and the solvent evaporated. The desired product is purified by chromatography on silica gel.

reactant | 4-Chloro-3-methoxy-2-methyl-pyridine | 6.12 g | ClC1=C(C(=NC=C1)C)OC | C7H8ClNO
reactant | N-bromo-succinimide | 7.12 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Chloro-3-methoxy-2-bromomethyl-pyridine | ClC1=C(C(=NC=C1)CBr)OC | C7H7BrClNO
